Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I've been on a downward slide for a year and a
half, it really peaked over the weekend."
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ with history of depression, anxiety, panic
disorder, and ADHD who was brought to the hospital by his sister
for worsening depressive symptoms and increasing anxiety over 
the
past ___ years now with persistent passive suicidal ideation for
the past 3 weeks. 

On interview, patient describes feeling increasingly depressed
over the past year and a half, associated with rumination and a
feeling of "detachment". He states that four weeks ago, he and
his fiancé broke up (this also caused him to become homeless
since they were living together - he has since been living with
friends and came to ___ to stay with his sister), because she
could not deal with his "detachment" anymore. He states that he
gets into an "anxious state" during which time he ruminates 
about
bad things in his life and worries about the future and feels a
pit in his stomach, and he feels that he "detaches" from reality
at these times. He notes that over the past weekend prior to
coming to the ___ he was unable to get rid of the pit in his
stomach or stop ruminating.

He reports difficulties focusing at work, difficulty with short
term memory which is bothersome and anxiety-provoking, new
cognitive difficulties including occasional dyslexia, poor sleep
(for which he takes Benadryl at home), anhedonia (not even able
to enjoy Patriot's games anymore), increasing social isolation
(including not spending times with friends and avoiding seeing
his son due to not wanting his son to see him depressed), and
passive suicidal thoughts ("I wish I could go to sleep and not
wake up"), though no active thoughts or plan. 

Per Dr. ___ dated ___: 

"He states that he disengaged with treatment approximately ___
years ago due to lack of insurance and has experienced a gradual
decompensation in his depression and anxiety.  More acutely, his
previous psychiatrist, whom he had seen for ___ years prior to 
his
retirement in ___, passed away one month ago.  The patient and
his girlfriend of ___ years also separated one month ago due to
the patient's worsening symptoms intolerable to his partner.

The patient reports worsening anhedonia (doesn't enjoy football,
writing the way he used to) and believes this is related to his
inability to concentrate.  He states that he spends hours 
sitting
in front of the computer screen unable to type a single 
sentence.
He describes a sensation of feeling paralyzed, unable to think 
or
make decisions.  Previously a ___ and ___, this represents a drastic change from his
baseline which the patient finds terribly distressing.  He has
been unable to work at the level he once had and is currently
working on a handful of cases; he no longer has a steady source
of income.  He reports having allowed checks amounting to 
$25,000
and $11,000 to bounce and neglected to file a number of 
important
financial documents last year.  He is likewise "homeless",
staying with friends after breaking up with the girlfriend he 
had
previously shared a home with.  He struggles with impaired
memory, and likewise reports impaired motivation, spending hours
in the bed in the morning dreading the prospect of preparing for
the day.  He has stopped working out, "stopped taking care of
[him]self", and reports diminished appetite, disturbed sleep, 
and
decreased energy. He has for the last few weeks entertained
thoughts of "not wanting to wake up", and while he denies SI 
with
plan, states "I think it would be better if I just died".  He
ruminates on his short-comings and failures and engages in
increased negative self-talk.

Although he is "miserable", he in addition experiences great
guilt and shame at the relationships he has destroyed with his
son, his sisters, his mother, and his friends.  The depression
forces him to isolate and "avoid"; he says that he cannot bear 
to
talk to people, "make eye contact with people".  He becomes
acutely tearful at the mention of his son, saying "I've been a
shit father".  He and his wife are divorced and he previously
enjoyed custody of his son on ___ and weekends.  Over the
last several months, however, he has cut himself off from his
son, "embarrassed for him to see [him] like this".  This past
weekend he went to a hotel, alone, to "get away from everything"
and, uncharacteristically, had several drinks at the hotel bar,
"trying to put the fire out" (his anxiety).  He reported
increased SI yesterday and was hopeful that his feelings would
improve with sleep, but awoke this morning anxious, hopeless, 
and
miserable.  He called his sister, ___, who reported to this
writer that his illness has been "more than [she] can handle
alone" and brought him to the hospital for evaluation.

He first experienced a panic attack at the age of ___ (___), and
a generalized anxiety soon followed.  He and his now ex-wife, 
who
share a son, several years later struggled through the death of
twins born prematurely after being otherwise unable to conceive. 

Their relationship ended in divorce shortly thereafter, and it
was then that the patient began seeing Dr. ___ in ___.  Dr. ___ Adderall 40-80 mg daily for ADHD and Klonopin 0.5-1.5
mg qHS for anxiety and panic disorder for a number of years; he
was trialed on but did not tolerate antidepressants, and these
were not a consistent component of his regimen.  The patient
reports being stable on Adderall and Klonopin without having
misused either medication- Adderall helped him to concentrate,
and Klonopin kept him "even".  After Dr. ___ in ___ 
the
patient's care was transferred to another provider but the
patient lost his insurance and was lost to follow-up in ___ 
of
___.  This provider did insist that the patient restart Prozac,
which had been somewhat beneficial in the past, but likewise
proposed the use of lithium, which made the patient angry, as he
denies that he may be bipolar.  He does deny symptoms of mania
and psychosis.  He does endorse "overwhelming" anxiety with 
daily
panic attacks that have recently worsened in frequency and
severity.  Despite medications having been beneficial in
controlling his symptoms in the past, the patient currently
denies hope for the future, unsure that his symptoms will ever
improve."  

Also of note, the patient states that while feeling down over 
the
weekend, he tried to look up Dr. ___, only to find that he had
passed away. 
  
Psychiatric ROS:
Depression- endorses anhedonia, decreased concentration,
decreased motivation, sleep disturbances, poor appetite, low
mood, feelings of guilt, and passive but not active SI
Mania- denies increased energy, decreased need for sleep,
irritability or expansive/elevated mood, or grandiosity
Psychosis- denies paranoia, AVH, IOR/TC/TB/TI
Anxiety- reports generalized anxiety and daily panic attacks
 
Collateral: 
Per Dr. ___ Note dated ___: 
"Spoke with patient's sister ___ (___) who was visibly
shaken by being yelled at by her brother. She stated that she 
and
brother are only in touch periodically. She stated patient 
called
her this morning and said he "couldn't take it anymore." She 
told
him to come up and they would figure it out. Patient started
crying when he came to her house but didn't express thoughts of
suicide. Depression has been an issue for the patient for many
years, and that everyone once in a while when he gets like this
she "band-aids" him by giving him money or some klonopin. She
states that she doesn't think he is suicidal and that he doesn't
have a history of SA, self harm, or being reckless with pill. 
She
states that her "preference" is that patient is "discharged to
her."

 
Past Medical History:
Per Dr. ___ (___), confirmed
with patient and updated as relevant:
Remote h/o UTI

 
Social History:
Substance use history: Per Dr. ___ (___), 
confirmed
with patient and updated as relevant:
Alcohol: Does not drink routinely- endorses having 3 gin/tonics
on ___ as an attempt to calm anxiety, which is not a 
regular
occurance
Tobacco: 0.5 ppd
Illicits: Rare marijuana, last used 2 months ago socially; 
denies
cocaine, heroin, crystal meth
Personal and Social History: Per Dr. ___ (___),
confirmed with patient and updated as relevant:
"B/R in ___, attended school and law school in ___,
practiced ___ for ___ years; brief hiatus from law ___
during which he earned a degree in ___ and took a job 
as
a ___; is currently working on a few legal cases
but has no steady source of income and is "homeless", staying
with friends in ___ after having broken up with his girlfriend of
___ years one month ago.  Has had several long-term 
relationships
but none successful, patient says he becomes "detached"; once
divorced.  Has two sisters, mother living, father deceased.  Has
a ___ y/o son; grieved the death of twin children who were born
prematurely in ___  
Endorses history of emotional abuse by his mother while growing
up. Denies history of physical or sexual abuse, though notes 
that
he suspects that his sister was physically abused by their
mother. 

 
Family History:
 Per Dr. ___ (___),
confirmed with patient and updated as relevant: ___ year old son
with autism; mother was "crazy" but there is no
clear diagnosis, suspects borderline personality disorder. 
Sister with anxiety and panic disorder. States depression runs 
on
his father's side of the family. 
 
Physical Exam:
VS: T: 98.2, BP: 142/97, HR: 80, R: 16, O2 sat: 96% on RA

General: Tearful middle-aged male in NAD. Appears stated age.
HEENT: Normocephalic, atraumatic. PERRL, EOMI. Oropharynx clear.
Neck: Supple.
Back: No significant deformity.
Lungs: CTA ___. No crackles, wheezes, or rhonchi.
CV: RRR, no murmurs/rubs/gallops. 
Abdomen: +BS, soft, nontender, nondistended. No palpable masses
or organomegaly.
Extremities: No clubbing, cyanosis, or edema.
Skin: No rashes, abrasions, scars, or lesions. 
Neurological:
Cranial Nerves:
-Pupils symmetry and responsiveness to light and accommodation:
PERRLA
-Visual fields: full to confrontation
-EOM: full
-Facial sensation to light touch in all 3 divisions: equal
-Facial symmetry on eye closure and smile: symmetric
-Hearing bilaterally to rubbing fingers: normal
-Phonation: normal
-Shoulder shrug: intact
-Tongue: midline
Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength: full power ___ throughout. Coordination:
Normal on finger to nose test. Sensation: Intact to light touch
throughout. 
Gait: Steady. Normal stance and posture. No truncal ataxia.

Cognition: 
Wakefulness/alertness: awake and alert
Attention: Able to perform serial 7s without error
Orientation: oriented to person, time, place, situation
Memory: Registers ___, recalls ___ after 3 minutes, a second 
with
categorical prompt and third with multiple choice prompt
Fund of knowledge: Knows MLK associated with ___
Movement
Calculations: correctly states 7 quarters in $1.75
Abstraction: appropriately interprets book/cover
Speech: normal rate, volume, and tone
Language: native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
Appearance: No apparent distress, appears stated age, well
groomed, dressed in hospital gown 
Behavior: Initially irritable, later calm, cooperative with
interview. Lying flat through most of interview, initially with
little eye contact which improved over the course of the
interview. 
Mood and Affect: "Depressed" /dysthymic, tearful, congruent with
mood
Thought Process: linear, coherent, goal-oriented. No LOA.
Thought Content: denies HI/AH/VH, no evidence of delusions or
paranoia. Endorses passive suicidal ideation (i.e. "if I didn't
wake up, that wouldn't be the worst thing) but denies active
suicidal ideation or plan. 
Judgment and Insight: limited/fair

 
Pertinent Results:
___ 03:55PM   GLUCOSE-80 UREA N-11 CREAT-0.9 SODIUM-142 
POTASSIUM-4.2 CHLORIDE-103 TOTAL CO2-26 ANION GAP-17
___ 03:55PM   TSH-1.2
___ 03:55PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG

___ 03:55PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 03:55PM   WBC-7.9 RBC-5.01 HGB-14.5 HCT-44.1 MCV-88 
MCH-28.9 MCHC-32.9 RDW-14.3 RDWSD-46.1
___ 03:55PM   NEUTS-59.0 ___ MONOS-7.0 EOS-0.0* 
BASOS-0.4 IM ___ AbsNeut-4.65 AbsLymp-2.62 AbsMono-0.55 
AbsEos-0.00* AbsBaso-0.03
___ 03:55PM   PLT COUNT-200
___ 03:55PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
 
Brief Hospital Course:
When pt was evaluated in the ___, he was thought to be at 
increased risk of harm to self given his passive suicidal 
ideation, anger at hospital staff and history of impulsivity, 
and the degree of his depression including anhedonia, social 
isolation, poor sleep, difficulty concentrating and with memory, 
and difficulty caring for self (i.e. not maintaining car 
registration, health insurance, etc. due to lack of energy and 
motivation).  It was thought that he would benefit from a brief 
inpatient hospitalization for a more thorough 
diagnostic/psychosocial evaluation, initiation of medication, 
and aftercare planning. 

Team met with patient and found him to be cooperative. Despite 
his recent low mood and passive suicidal ideation, he denied any 
intent to harm himself and was future oriented, hopeful, very 
motivated to utilize medication/therapy to feel better.  He did 
not appear to be at imminent risk of harm to self and appeared 
safe to discharge to the community with use of his sister and 
new outpatient providers for support and monitoring. In 
addition, he was accepting of medication and so team started 
clonazepam 0.5 mg BID PRN and Wellbutrin XL 150 mg QAM to 
address his anxiety and depression, respectively. He was 
emphatic thet "this is a very bad place for me" and that while 
he wanted treatment he did not want to be in the hospital for 
even one night.

1. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission. He was also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.

2. PSYCHIATRIC:
#) As above; The patient was accepting of medication and so team 
started clonazepam 0.5 mg BID PRN and Wellbutrin XL 150 mg QAM 
to address his anxiety and depression, respectively. 

3. SUBSTANCE USE DISORDERS:
#) The patient was given nicotine lozenges PRN for nicotine 
cravings. 

4. MEDICAL
#)No acute medical issues arose. 

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
The patient's sister was contacted for collateral information 
and discharge planning.

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting Wellbutrin, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any  
questions about medications with the treatment team, and I  
answered the patient's questions.  The patient appeared able to 
understand and consented to begin the medication.

RISK ASSESSMENT
Patient is future-oriented, non-hopeless, forthcoming, and 
entirely nonsuicidal.

Prognosis: good- likely to re-establish satisfying relationships 
with ongoing mental health outpatient treatment including 
therapy and psychopharm.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  BuPROPion XL (Once Daily) 150 mg PO DAILY 
RX *bupropion HCl 150 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
2.  ClonazePAM 0.5 mg PO BID:PRN anxiety, agitation or insomnia 
RX *clonazepam 0.5 mg 1 tablet(s) by mouth Twice daily as needed 
Disp #*14 Tablet Refills:*0 
3.  Nicotine Lozenge 2 mg PO Q1H:PRN nicotine cravings 
RX *nicotine (polacrilex) [Nicorette] 2 mg  every hour as needed 
Disp #*24 Lozenge Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major Depressive Disorder

 
Discharge Condition:
Vitals: T 98.2(0)BP 142 / 97 HR 80 RR 16 O2 96 RA
 
Ambulatory Status: Independent 

Appearance: No apparent distress, appears stated age, well
groomed, dressed in hospital gown 
Behavior: Initially irritable, later calm, cooperative with
interview.  Initially with little eye contact which improved 
over the course of the interview. 
Mood and Affect: 'Depressed' /dysthymic, at times tearful, 
congruent with mood
Thought Process: linear, coherent, goal-oriented. No LOA.
Thought Content: denies HI/AH/VH, no evidence of delusions or
paranoia. Endorses passive suicidal thoughts (i.e. 'if I didn't
wake up, that wouldn't be the worst thing) but denies active
suicidal ideation or plan. 
Judgment and Insight: limited/fair
Speech: Regular rate, rhythm and volume
Language: Fluent ___

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___